US07589232B2
Step b) Formation of (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(cyanoacetyl)amino]methyl}phenoxy)acetic acid
The titled compound was prepared following the procedure F using methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(cyanoacetyl)amino]methyl}phenoxy)acetate and NaOH 1 N in the presence of DMF, as a white powder (20%). M− (ESI): 493.3; M+ (ESI): 495.3. HPLC, Rt: 5.01 min (Purity: 80.6%).

reactant | methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(cyanoacetyl)amino]methyl}phenoxy)acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CC#N)=O)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C32H32N2O4
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(cyanoacetyl)amino]methyl}phenoxy)acetic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CC#N)=O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C31H30N2O4
